US08420661B2
(3.4 g, 14.3 mmol) (3-Amino-3-methyl-butyl)-carbamic acid tert-butyl ester hydrochloride was dissolved in THF (60 ml) and KOtBu (6.4 g, 57.1 mmol, 4 equiv.) was added. The mixture was stirred for 16 hours at 60° C. and evaporated then with isolute to dryness. The crude product was purified by flash chromatography by directly loading the residue onto a silica gel column and eluting with an ethyl acetate:methanol gradient 100:0 to 70:30. The desired 4,4-dimethyl-tetrahydro-pyrimidin-2-one (1.65 g, 90% yield) was obtained as a light yellow solid, MS: m/e=129.1 (M+H+).

reactant | (3-Amino-3-methyl-butyl)-carbamic acid tert-butyl ester hydrochloride | 14.3 mmol, 3.4 g | Cl.C(C)(C)(C)OC(NCCC(C)(C)N)=O
reactant | KOtBu | 57.1 mmol, 6.4 g, 4 equiv. | CC(C)(C)[O-].[K+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4,4-dimethyl-tetrahydro-pyrimidin-2-one | 1.65 g, 90% yield | CC1(NC(NCC1)=O)C | C6H12N2O
